US07456164B2
Intermediate 86: tert-butyl bis(2-chloroethyl)carbamate
Bis-(2-chloroethyl)amine hydrochloride (10 g, 56 mmol) was stirred vigorously in a mixture of dichloromethane (150 ml) and aqueous 10% sodium hydroxide (50 ml). Di-tert-butyldicarbonate (12.2 g, 56 mmol) as a solution in dichloromethane (75 ml) was then added dropwise. The reaction mixture was stirred at room temperature for 5 hours. TLC showed the reaction was not complete so more di-tert-butyldicarbonate (4 g, 18.3 mmol) was added. The mixture was stirred vigorously for 18 hours at room temperature. The layers were then separated and the aqueous layer extracted with more dichloromethane (2×50 ml). The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with pentane:ethyl acetate (99:1 to 80:20 by volume) to provide the title compound (7.9 g, 58%).

reactant | Bis-(2-chloroethyl)amine hydrochloride | 56 mmol, 10 g | Cl.ClCCNCCCl
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | Di-tert-butyldicarbonate | 56 mmol, 12.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyldicarbonate | 18.3 mmol, 4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | tert-butyl bis(2-chloroethyl)carbamate | 7.9 g, 58% | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
